US08431563B2
A 1 L round-bottomed flask was charged with 2-aminoethanethiol (15.0 g, 194 mmol, Sigma-Aldrich, St. Louis, Mo.) and 200 mL of MeOH. After cooling to 0° C., 2-bromo-1-cyclopropylethanone (31.7 g, 194 mmol, Tetrahedron, 1987, 43, 4609) was added drop-wise over 5 min. This mixture was stirred at 0° C. for 30 min, then NaBH4 (7.36 g, 194 mmol) was added portion-wise. After 1 h, Boc2O (42.4 g, 194 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. After stirring at room temperature for 3 h, the mixture was concentrated and diluted with 200 mL EtOAc and 50 mL of water. The organics were separated, dried with MgSO4, filtered and concentrated to give an oil. Purification via column chromatography on silica gel (0-15% EtOAc in hexanes) gave tert-butyl 3-cyclopropyl-4-thiomorpholinecarboxylate (40.0 g) as an oil that slowly solidified.

reactant | 2-aminoethanethiol | 194 mmol, 15.0 g | NCCS | C2H7NS
reactant | 2-bromo-1-cyclopropylethanone | 194 mmol, 31.7 g | BrCC(=O)C1CC1 | C5H7BrO
reactant | NaBH4 | 194 mmol, 7.36 g | [BH4-].[Na+]
reactant | Boc2O | 194 mmol, 42.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 200 mL | CO | CH4O
product | tert-butyl 3-cyclopropyl-4-thiomorpholinecarboxylate | 40.0 g | C1(CC1)C1N(CCSC1)C(=O)OC(C)(C)C | C12H21NO2S
